US05942544
Part D. A solution of ethyl N-[4-[4-nitrophenyl]butyl]-N-[3-cyanophenyl]glycine (0.31 gm, 0.81 mmol) and 20 mL methanol:ethyl acetate (v:v, 50:50) was degassed with nitrogen in a Parr shaker bottle, then 10% palladium on carbon was added. The reaction was charged to 50 PSI hydrogen and shaken for 1/2 hr. The catalyst was filtered off over celite, the filtrate concentrated and the product purifed by flash chropmatography on silica gel eluting ethyl acetate:methylene chloride (v:v, 10:90) to give ethyl N-[4-[4-aminophenyl]butyl]-N-[3-cyanophenyl]glycine as a semisolid 0.27 gm (94%). MS 352(M+H)+ 1 H NMR (CDCl3): 7.2(m, 1H), 7.0(m, 3H), 6.8(m, 2H), 6.6(d, 2H), 4.2(q, 2H), 4.0(s, 2H), 3.6(bs, 2H), 3.4(m, 2H), 2.6(m, 2H), 1.6(m, 4H), 1.2(t, 3H).

reactant | ethyl N-[4-[4-nitrophenyl]butyl]-N-[3-cyanophenyl]glycine | 0.81 mmol, 0.31 gm | C(C)C(N(C1=CC(=CC=C1)C#N)CCCCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C21H23N3O4
reactant | methanol | 20 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl N-[4-[4-aminophenyl]butyl]-N-[3-cyanophenyl]glycine | 0.27 gm, 94% | C(C)C(N(C1=CC(=CC=C1)C#N)CCCCC1=CC=C(C=C1)N)C(=O)O | C21H25N3O2
